US07906517B2
6-[(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyridin-3-ol (141 mg) is dissolved in N,N-dimethylformamide (1 ml), and thereto is added 60% sodium hydride (10 mg) under ice-cooling and the mixture is stirred for 5 minutes and thereto is added ethyl 4-bromobutyrate (48 μl), and the mixture is stirred at room temperature for 1 hour. To the reaction solution is added water under ice-cooling, and the mixture is extracted with methylene chloride, and the organic layer is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give ethyl 4-{6-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyridin-3-yloxy}-butyrate (154.1 mg). MS (m/z): 757 [M+H]+

reactant | 6-[(3,5-Bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyridin-3-ol | 141 mg | FC(C=1C=C(CN(C2=CC=C(C=N2)O)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C32H27F9N2O2
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | ethyl 4-bromobutyrate | 48 μl | BrCCCC(=O)OCC | C6H11BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | ethyl 4-{6-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyridin-3-yloxy}-butyrate | 154.1 mg | FC(C=1C=C(CN(C2=CC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C38H37F9N2O4
